US04092311
A 2.49 g. portion of 6-(m-nitrophenyl)-5-methyl-3-chloropyridazine and 2.18 g. of ethyl carbazate in 50 ml. of butyl alcohol are stirred at reflux for 4 hours. The reaction mixture is concentrated free of solvent and the concentrate is shaken with ether and water. The resulting solid is recovered by filtration, washed with water and ether and dried, yielding ethyl 3-[6-(m-nitrophenyl)-5-methyl-3-pyridazinyl]carbazate as a cream colored solid, m.p. 186°-187° C.

reactant | 6-(m-nitrophenyl)-5-methyl-3-chloropyridazine | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(C=C(N=N1)Cl)C | C11H8ClN3O2
reactant | ethyl carbazate | C(NN)(=O)OCC | C3H8N2O2
solvent | butyl alcohol | C(CCC)O | C4H10O
product | ethyl 3-[6-(m-nitrophenyl)-5-methyl-3-pyridazinyl]carbazate | [N+](=O)([O-])C=1C=C(C=CC1)C1=C(C=C(N=N1)NNC(=O)OCC)C | C14H15N5O4
